US05545644
(R)-5-(Methylaminosulfonylmethyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole
A solution of (R)-7-bromo-5-(methylaminosulfonylmethyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole (193 g) in industrial methylated spirit (950 mL) containing Pearlman's catalyst (47.6 g total) was exposed to hydrogen gas (50 psi). The catalyst was then filtered through an Arbacel pad, washing with hot industrial methylated spirit (2×100 mL) and the combined filtrate and washings evaporated in vacuo to an organic residue. The filtered solids (catalyst +filter aid) were then reslurried in 2N hydrochloric acid (500 mL) then refiltered (through Arbacel)and the filtrand washed with 2N hydrochloric acid (4×250 mL) and water (2×100 mL). The aqueous filtrate and washes were combined with the organic residue and then once washed with ethyl acetate (1000 mL). The aqueous solution was chilled then made basic by addition of 40% aqueous sodium hydroxide solution precipitating the title compound as a pale-yellow solid. This solid was filtered, washed with water (2×100 mL) and dried in vacuo to give the title compound (89.9 g). TLC (methyl iso-butyl ketone/acetic acid/water 2:1:1 Top phase): Rf=0.23. 1H NMR(d6DMSO) δ10.85 (s, 1H), 7.5 (s, 1H), 7.3 (d, 1H), 7.15 (s, 1H), 7.05 (d, 1H), 6.8 (q, 1H), 4.35 (s, 2H), 3.0 (m, 2H), 2.55-2.4 (d, 3H and m, 2H), 2.35 (s, 3H), 2.1 (m, 1H), 1.7-1.4 (m, 4H).

reactant | (R)-7-bromo-5-(methylaminosulfonylmethyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 193 g | BrC=1C=C(C=C2C(=CNC12)C[C@@H]1N(CCC1)C)CS(=O)(=O)NC | C16H22BrN3O2S
reactant | hydrogen | [H][H] | H2
catalyst | Pearlman's catalyst | 47.6 g | [OH-].[OH-].[Pd+2]
product | (R)-5-(Methylaminosulfonylmethyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 89.9 g | CNS(=O)(=O)CC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C16H23N3O2S
